US08222416B2
A mixture of 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrrolo[2,3-b]pyridine (310 mg, 0.65 mmol) and 10% palladium on activated carbon (100 mg) in methanol (250 mL) was heated at 50° C. under 50 bar of hydrogen in a steel bomb pressure for 8 h. The mixture was cooled to room temperature. The catalyst was removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo to afford 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-5-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrrolo[2,3-b]pyridine (270 mg, 86.8%) as a white solid: LC/MS m/e calcd for C27H34N2O4S [M+H]+ 483.65, observed 483.3.

reactant | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrrolo[2,3-b]pyridine | 0.65 mmol, 310 mg | C1(CCCC1)C=C(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)CC2OC(OC2)(C)C)N1 | C27H32N2O4S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 100 mg | [Pd] | Pd
solvent | methanol | 250 mL | CO | CH4O
product | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-5-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrrolo[2,3-b]pyridine | 270 mg, 86.8% | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)CC2OC(OC2)(C)C)N1 | C27H34N2O4S
